US04017472
To a suspension of 10 g. of L-aspartic acid in 40 ml. of propionic acid is added, at room temperature with stirring, 3.8 g. of phosphorous trichloride and stirring is continued at that temperature for about 1 1/2 hours. At the end of that time, 5 g. of acetic anhydride is added and the reaction mixture is stirred at room temperature for approximately 8 hours longer. The crystals which separate from the reaction mixture are filtered, washed with ether and dried to afford L-aspartic acid anhydride hydrochloride.

reactant | L-aspartic acid | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | propionic acid | C(CC)(=O)O | C3H6O2
reactant | phosphorous trichloride | P(Cl)(Cl)Cl | Cl3P
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | L-aspartic acid anhydride hydrochloride | Cl.N[C@H]1CC(=O)OC1=O | InChI=1S/C4H5NO3.ClH/c5-2-1-3(6)8-4(2)7;/h2H,1,5H2;1H/t2-;/m0./s1
